US04452790
D. 1-[(S)-2-[[[(±)-1-(Benzoylamino)-3-phenylpropyl]hydroxyphosphinyl]oxy]-1-oxopropyl-L-proline, phenylmethyl ester
A mixture of the phosphonic acid from Part B (0.60 g, 1.9 mmole), lactoyl proline, phenylmethyl ester (from Part C) (0.52 g, 1.9 mmole), and dry THF (5 ml) at 0° C. under argon was treated with dicyclohexylcarbodiimide (0.39 g, 1.9 mmole). After 15 minutes, the reaction mixture was diluted with EtOAc and filtered to remove the dicyclohexylurea. The filtrate was washed with 5% KHSO4, brine, dried (MgSO4), and evaporated. The residue (1.2 g) was chromatographed on silica (60 g) eluting with (20:1:1, CH2Cl2 /CH3OH/HOAc). The desired fractions were combined and evaporated to dryness to give the title compound (1.0 g, 1.7 mmole, 90% yield) as a foam. TLC: (20:1:1, CH2Cl2 /CH3OH/HOAc) two isomers Rf =0.15, 0.20.

reactant | phosphonic acid | P(O)(O)=O | H3O3P
reactant | lactoyl proline, phenylmethyl ester | 1.9 mmole, 0.52 g | C(C(O)C)(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C15H19NO4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | dicyclohexylcarbodiimide | 1.9 mmole, 0.39 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-[[[(±)-1-(Benzoylamino)-3-phenylpropyl]hydroxyphosphinyl]oxy]-1-oxopropyl-L-proline, phenylmethyl ester | 1.7 mmole, 1.0 g, 90% yield | C(C1=CC=CC=C1)(=O)NC(CCC1=CC=CC=C1)P(=O)(O[C@]1(N(CCC1)C(CC)=O)C(=O)OCC1=CC=CC=C1)O | C31H35N2O7P
